US06518257B1
(i) Production of 2-bromo-1-fluoro-4-nitrobenzene
To a mixture of 2-fluoro-5-nitroaniline (25.90 g), 47% aqueous hydrogen bromide (100 ml), water (200 ml) and acetic acid (200 ml) was added dropwise an aqueous sodium nitrite (11.56 g) solution (100 ml), and the mixture was stirred at 0° C. for 1 h. This mixture was added at 0° C. to a solution of copper bromide (CuBr: 27.30 g) dissolved in 47% aqueous hydrogen bromide (100 ml) and the mixture was stirred at room temperature for 16 h. The reaction mixture was extracted with ethyl acetate, dried (anhydrous magnesium sulfate) and concentrated under reduced pressure. The residue was purified by silica gel chomatography (eluent: hexane). Crystallization from hexane gave the title compound (4.01 g) as colorless needle crystals.

reactant | 2-fluoro-5-nitroaniline | 25.90 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | water | 200 ml | O | H2O
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 11.56 g | N(=O)[O-].[Na+]
reactant | hydrogen bromide | 100 ml | Br | BrH
reactant | hydrogen bromide | 100 ml | Br | BrH
catalyst | copper bromide | 27.30 g | [Cu](Br)Br
product | 2-bromo-1-fluoro-4-nitrobenzene | 4.01 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
